US04704480
As demonstrated by entries 4 and 5 in Table 1, at about 130° C., the conversion of the three-carbon feedstock starting from acetone and hydrogen is 16.4% and from isopropanol is 8.6%. Isopropanol becomes the major reaction product, while MIBC predominates over MIBK in the aldol product. Small amounts of mesityl oxide are also seen, however, no diisobutylketone is formed. Thus, 130° C. favors secondary alcohols over ketones and the conversion of three-carbon feedstock to aldol products is poor.

reactant | acetone | CC(=O)C | C3H6O
reactant | hydrogen | [H][H] | H2
reactant | MIBC | CC(C)CC(C)O | C6H14O
reactant | mesityl oxide | O=C(C)C=C(C)C | C6H10O
solvent | MIBK | CC(C)CC(=O)C | C6H12O
solvent | Isopropanol | C(C)(C)O | C3H8O
product | diisobutylketone | C(C(C)C)C(=O)CC(C)C | C9H18O
